US04244957
Preparation of 2-[(2,6-dichlorophenyl)imino]-1-hydroxyimidazolidine
2.30 g. of 2-[(2,6-dichlorophenyl)imino]-imidazolidine are dissolved in 10 ml. of concentrated sulfuric acid, and 2.97 g. of potassium persulfate are added in portions at room temperature. The temperature is kept below 50° with a cooling bath. The dark solution is diluted with water and rendered highly alkaline with concentrated caustic soda solution. The unreacted starting material is extracted with ether. The aqueous solution is adjusted to pH 7 with glacial acetic acid and then with sodium bicarbonate. The residue is filtered off from the solution and a potassium carbonate solution is added to the filtrate up to pH 10.5. The product which has precipitated is extracted with ethyl acetate and recrystallized twice from acetonitrile, whereupon 2-[(2,6-dichlorophenyl)-imino]-1-hydroxyimidazolidine of melting point 215°, which is identical to the product obtained in Example 3, is obtained.

reactant | 2-[(2,6-dichlorophenyl)imino]-imidazolidine | ClC1=C(C(=CC=C1)Cl)N=C1NCCN1 | C9H9Cl2N3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | potassium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | caustic soda | [OH-].[Na+]
solvent | water | O | H2O
product | 2-[(2,6-dichlorophenyl)imino]-1-hydroxyimidazolidine | ClC1=C(C(=CC=C1)Cl)N=C1N(CCN1)O | C9H9Cl2N3O
